US04045566
3-[2-(4-Anilinocarbonylmethylamino-1-piperidyl) ethyl]indole
3-[2-(4-Amino-1-piperidyl) ethyl]indole hydrate (1.31g.) was dissolved in dimethylformamide (15 ml) containing triethylamine (2 ml) and chloroacetanilide (0.85g) added. The mixture was stirred for 24 hours, poured into water (100 ml) and extracted with chloroform (2 × 50 ml). The combined chloroform layers were washed with water, dried (MgSO4), filtered and evaporated to give the title compound as an amber oil (2.06 g). This was converted to the hydrochloride (1.29 g), m.p. 240.7°, on addition of EtOH-HC1 and Et2O.

reactant | 3-[2-(4-Amino-1-piperidyl) ethyl]indole hydrate | 1.31g | O.NC1CCN(CC1)CCC1=CNC2=CC=CC=C12
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetanilide | 0.85g | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[2-(4-Anilinocarbonylmethylamino-1-piperidyl) ethyl]indole | 2.06 g | N(C1=CC=CC=C1)C(=O)CNC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C23H28N4O
